US08461360B2
γ-Mangostin from β-mangostin: To a solution of β-mangostin (0.25 g, 0.58 mmol) in DMSO (LR, 15 mL) was added sodium cyanide (0.52 g, 10.61 mmol) at RT and the mixture was stirred at 190-200° C. for 6 h. The reaction mixture was allowed to cool to ambient temperature and then poured into ice water and the mixture was acidified with dil. HCl. The solution was extracted with ethyl acetate (5×50 mL). The combined ethyl acetate layer was washed with aqueous potassium permanganate (10%), water, brine and dried over sodium sulfate. The solution was filtered and treated with few drops of triethyl amine and the solvent evaporated. The residue was chromatographed over silica gel column using hexane/ethyl acetate mixture (80:20) as an eluent to give α-mangostin (90 mg, 37%). The α-mangostin was then converted to γ-mangostin using the inventive demethylation procedure as described in example 12.

reactant | γ-Mangostin | CC(=CCC=1C(=CC2=C(C1O)C(=O)C3=C(C=C(C(=C3CC=C(C)C)O)O)O2)O)C | C23H24O6
reactant | β-mangostin | CC(=CCC1=C(C=C2C(=C1O)C(=O)C3=C(C=C(C(=C3CC=C(C)C)OC)O)O2)OC)C | C25H28O6
reactant | β-mangostin | 0.58 mmol, 0.25 g | CC(=CCC1=C(C=C2C(=C1O)C(=O)C3=C(C=C(C(=C3CC=C(C)C)OC)O)O2)OC)C | C25H28O6
reactant | sodium cyanide | 10.61 mmol, 0.52 g | [C-]#N.[Na+]
reactant | HCl | Cl | ClH
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | α-mangostin | 90 mg, 37% | CC(=CCC1=C(C=C2C(=C1O)C(=O)C3=C(C(=C(C=C3O2)O)OC)CC=C(C)C)O)C | C24H26O6
